US07183276B2
A mixed solution of 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionic acid (1.43 g), 1-methylpiperazine (2.5 g) and isopropyl alcohol (20 mL) was heated under reflux for 10 hrs. The reaction mixture was concentrated, diluted with water, and acidified with 2N aqueous hydrochloric acid solution. The precipitated crystals were collected by filtration and recrystallized from ethanol to give 3-[4-(4-chlorophenyl)-2-(4-methyl-1-piperazinyl)-5-oxazolyl]propionic acid (1.37 g, yield 70%) as colorless prism crystals. melting point: 157–160° C.

reactant | 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionic acid | 1.43 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)O | C12H9Cl2NO3
reactant | 1-methylpiperazine | 2.5 g | CN1CCNCC1 | C5H12N2
solvent | isopropyl alcohol | 20 mL | C(C)(C)O | C3H8O
product | 3-[4-(4-chlorophenyl)-2-(4-methyl-1-piperazinyl)-5-oxazolyl]propionic acid | 1.37 g, yield 70% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1CCN(CC1)C | C17H20ClN3O3
